US06255496B1
(2S, 4S)-1-N-Dodecyl-4-[4-[3-hydroxy-4,4,4-trifluoro-1-butyl]phenoxy]pyrrolidine2-carboxylic acid, methyl ester
(2S, 4S)-1-N-Dodecyl-4-[4-(E)-[3-hydroxy-4,4,4-trifluorobut-1-en-1-yl]phenoxy]pyrrolidine-2-carboxylic acid, methyl ester (552 mg., 1.07 mmol) was hydrogenated as described in the preparation of 4-[N-dodecyl-N-2-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy] ethylamino]-butanoic acid, ethyl ester and afforded the title compound (546 mg, 99%) as a clear oil. [a]D=−89.0° (c 0.4, CHCl3)

reactant | (2S, 4S)-1-N-Dodecyl-4-[4-(E)-[3-hydroxy-4,4,4-trifluorobut-1-en-1-yl]phenoxy]pyrrolidine-2-carboxylic acid, methyl ester | 1.07 mmol, 552 mg | C(CCCCCCCCCCC)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)\C=C\C(C(F)(F)F)O)C(=O)OC | C28H42F3NO4
reactant | 4-[N-dodecyl-N-2-[4-[3-hydroxy-4,4,4-trifluorobutyl]phenoxy] ethylamino]-butanoic acid, ethyl ester | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)O)CCCC(=O)OCC | C30H50F3NO4
product | (2S, 4S)-1-N-Dodecyl-4-[4-[3-hydroxy-4,4,4-trifluoro-1-butyl]phenoxy]pyrrolidine2-carboxylic acid, methyl ester | 546 mg, 99% | C(CCCCCCCCCCC)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)CCC(C(F)(F)F)O)C(=O)OC | C28H44F3NO4
